US04665197
Preparation of 3,3-bis(hydroxymethyl)-1-benzylazetidine (1)
A mixture of 30.2 g of 5,5-bis(bromomethyl)-2,2-dimethyl-1,3-dioxane (0.1 mol), 24.0 g of sodium bicarbonate and 50 ml of dimethyl sulfoxide was heated to 135° C. A solution of 10.7 g of benzylamine in 50 ml of DMSO was then added dropwise with stirring over 1.5 hours. After addition was complete, the mixture was stirred for 2.5 hours at 135° C. After cooling, 100 ml of DMSO and 20 ml of water were added and the solution was extracted with pentane. The extract was washed with water and then shaken with 5% (w/w) sulfuric acid in order to extract the basic 3,3-bis(hydroxymethyl)-1-benzylazetidine acetone acetal.

reactant | 5,5-bis(bromomethyl)-2,2-dimethyl-1,3-dioxane | 0.1 mol, 30.2 g | BrCC1(COC(OC1)(C)C)CBr | C8H14Br2O2
reactant | sodium bicarbonate | 24.0 g | C([O-])(O)=O.[Na+]
reactant | benzylamine | 10.7 g | C(C1=CC=CC=C1)N | C7H9N
reactant | water | 20 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 3,3-bis(hydroxymethyl)-1-benzylazetidine | OCC1(CN(C1)CC1=CC=CC=C1)CO | C12H17NO2
